US07776910B2
5-Bromo-2-iodo-benzoic acid (25.0 g, 76.47 mol) was dissolved in CH2Cl2 (75 ml) at room temperature. Oxalyl chloride (14.5 ml, 152.94 mmol) was added and the mixture was stirred at 40° C. for 30 minutes. The mixture was allowed to cool to room temperature and EtOH (6.69 ml, 114.71 mmol) was added. The mixture was concentrated under reduced pressure to give 27.2 g (quantitative) of 5-bromo-2-iodo-benzoic acid ethyl ester as a yellow crystalline solid.

reactant | 5-Bromo-2-iodo-benzoic acid | 76.47 mol, 25.0 g | BrC=1C=CC(=C(C(=O)O)C1)I | C7H4BrIO2
reactant | Oxalyl chloride | 152.94 mmol, 14.5 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | EtOH | 114.71 mmol, 6.69 ml | CCO | C2H6O
solvent | CH2Cl2 | 75 ml | C(Cl)Cl | CH2Cl2
product | 5-bromo-2-iodo-benzoic acid ethyl ester | 27.2 g | C(C)OC(C1=C(C=CC(=C1)Br)I)=O | C9H8BrIO2
